* Bi-stable element, SkyWater130 HD, TT 27C

.include "~/OpenRAM/skywater-pdk/libraries/sky130_fd_pr/latest/models/corners/tt.spice"
.include "~/OpenRAM/skywater-pdk/libraries/sky130_fd_sc_hd/latest/cells/inv/sky130_fd_sc_hd__inv_1.spice"

* the voltage sources:
Vin vin 0 dc 1.8
Vdd vdd 0 dc 1.8

Xinv1 vin gnd gnd vdd vdd vout sky130_fd_sc_hd__inv_1
Xinv2 vout gnd gnd vdd vdd vin sky130_fd_sc_hd__inv_1

.control

dc vin 0 1.8 0.001
plot v(vout) abs(i(Vin)) * 1000

.endc